US05177075
4-Bromo-1-isoquinolinol
To a suspension of 5.0 g (34.5 mmol) of 1-hydroxyisoquinoline in 100 ml of methylene chloride was added 6.0 g (37.7 mmol) of bromine in 20 ml of methylene chloride. The mixture was stirred for four hours, the solid was filtered and washed with methylene chloride. This solid was recrystallized from ethanol to give 4.9 g (63%) of the desired product; mp 245°-250° (dec).

reactant | 1-hydroxyisoquinoline | 34.5 mmol, 5.0 g | OC1=NC=CC2=CC=CC=C12 | C9H7NO
reactant | bromine | 37.7 mmol, 6.0 g | BrBr | Br2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-Bromo-1-isoquinolinol | 4.9 g, 63% | BrC1=CN=C(C2=CC=CC=C12)O | C9H6BrNO
